US09085576B2
Step 2: 1-(Trifluoromethyl)cyclopropanecarbaldehyde
To a solution of N-methoxy-N-methyl-1-(trifluoromethyl)cyclopropanecarboxamide (0.23 g, 1.162 mmol) in diethyl ether (3 mL, aldrich) at 0° C. under Ar(g) was added lithium aluminium hydride (1.0 M solution in THF; 1.39 mL, 1.39 mmol, aldrich) dropwise. After completed addition the reaction was then stirred at 0° C. for 45 min. The reaction was quenched with a solution of KHSO4 (1M) at −78° C. and gradually warmed to RT and stirred for 30 min. The reaction was extracted with diethyl ether (2×10 mL). The combined organic extracts were dried over MgSO4, concentrated, and dried in vacuo to afford 62 mg of the title compound as a light yellow liquid, which was used in the next step without further purification. 1H NMR (CHLOROFORM-d) δ: 9.69 (s, 1H), 1.43 (m, 2H), 1.21 (t, J=7.0 Hz, 2H)

reactant | N-methoxy-N-methyl-1-(trifluoromethyl)cyclopropanecarboxamide | 1.162 mmol, 0.23 g | CON(C(=O)C1(CC1)C(F)(F)F)C | C7H10F3NO2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | 1-(Trifluoromethyl)cyclopropanecarbaldehyde | 62 mg | FC(C1(CC1)C=O)(F)F | C5H5F3O
